US05334740
Ethyl (2-methylene-3,4-dihydroxy-5-(tert-butyldiphenylsilyloxy)cyclohexylidene)acetate (0.466 g) was dissolved in 5 ml of methylene chloride, and 0.204 g of imidazole and 0.30 g of tert-butyldiphenylsilyl chloride were added, followed by stirring the mixture at room temperature for 3 hours. The reaction mixture was poured into water, and extracted with diethyl ether. The extract was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 0.664 g of ethyl (3,5-bis-(tert-butyldiphenylsilyloxy)-4-hydroxy-2-methylene-cyclohexylidene)acetate having the following property.

reactant | Ethyl (2-methylene-3,4-dihydroxy-5-(tert-butyldiphenylsilyloxy)cyclohexylidene)acetate | 0.466 g | C=C1C(CC(C(C1O)O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=CC(=O)OCC | C27H34O5Si
reactant | imidazole | 0.204 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 0.30 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | water | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl (3,5-bis-(tert-butyldiphenylsilyloxy)-4-hydroxy-2-methylene-cyclohexylidene)acetate | 0.664 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1C(C(CC(C1O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=CC(=O)OCC)=C | C43H52O5Si2
